US05476661
Synthesis of N-(2,3-dihydroxypropyl)-hexadecylamine (intermediate of Formula V)
Hexadecylamine (5.00 g, 0.024 moles) was dissolved in absolute ethanol, and glycidol (3.07 g, 0.041 moles) was added dropwise. The reaction was refluxed under nitrogen for 4 hours then allowed to stir overnight. After 22 hours of refluxing, the reaction was stopped and a white solid formed during the cooling stage. The solid was recovered and recrystallized in hot hexane. (yield=2.02g)

reactant | Hexadecylamine | 0.024 moles, 5.00 g | C(CCCCCCCCCCCCCCC)N | C16H35N
reactant | glycidol | 0.041 moles, 3.07 g | C1C(O1)CO | C3H6O2
solvent | ethanol | C(C)O | C2H6O
product | N-(2,3-dihydroxypropyl)-hexadecylamine | OC(CNCCCCCCCCCCCCCCCC)CO | C19H41NO2
